Circuito impedancia de entrada

v1 1 0 dc 0 ac 1

l1 1 2 4mH
c1 2 0 8uF

r1 2 3 1k

c2 1 3 8uF
l2 3 0 4

.control
ac dec 100 1 10k

plot v(1)/i(v1)

.endc